Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
clindamycin / erythromycin / shellfish derived / cat pelt 
standardized allergenic extract
 
Attending: ___.
 
Chief Complaint:
Hyperkalemia
 
Major Surgical or Invasive Procedure:
Fistuologram ___

 
History of Present Illness:
Patient initially presented with 3 day history of generalized 
weakness, palpithat his K was elevated, was given 
kayexalate and was planned foations, and shortness of breath. He was told by 
his outpatient HD unit tr outpatient HD ___, but was noted 
to have evidence of clotted fistula. There is plan for 
outpatient thrombectomy, but K was elevated to 7.5 hence he was 
instructed to present to hospital.

In ED, initial vitals were  97.9 72 147/48 18 98% RA 
Labs notable for: K 7.7, Na 130, Bicarb 13. CBC WNL.
EKG was notable for st seg depr I AVL and t wave inversions 
unchanged from prior ECG, peaked t waves in v1 v2 v3.
He received insulin 20U + dextrose 50 gm + ___ @ 250/hr, 
calcium gluconate 4 gm, sodium bicarbonate 150 mEq and was 
admitted to the MICU. 

In the MICU, a L femoral temp HD line was placed and he received 
one session of HD. 

This AM, he reports that he feels much better. He denies nausea, 
lethargy, tremors, palpitations. He says he has had chronic 
diarrhea for the past 1.5  months after starting a bowel 
regimen, but he has not had any diarrhea in the hospital. He 
reports minimal urine output, voiding ___ per week. He says 
that he has had 4 fistula revisions, last had a clot removed two 
months ago. He reports that he has an ulcer on his right foot, 
and decreased sensation in his feet. He denies fevers, chills, 
HA, CP, SOB, abdominal pain, ___ swelling.

 
Past Medical History:
- Biventricular diastolic Heart Failure (EF: 55%, Dr. ___ 
___
- ___ Type II with nephropathy, neuropathy and retinopathy
- Hypertension
- Hyperlipidemia
- Stage V Chronic Kidney Disease on ESRD
- Peripheral Vascular Disease
- Chronic Right Foot Wound
- Epididymitis
- Erectile Dysfuction
- Anemia of Chronic Disease requiring transfusions
- Insomnia
- Arthritis
- Tobacco Abuse
- Chronic Pain Syndrome
- Obesity 
- C. Difficile Enteritis 
- Osteomyelitis 
- Vitreous hemorrhage 
- Cataract
- s/p left toe amputation
- s/p laparotomy for penetrating abdominal trauma

 
Social History:
___
Family History:
Mother with diabetes and heart disease. Father with lung cancer, 
hypertension, diabetes.
 
Physical Exam:
VS at Discharge: T-98.3 BP-120/64 P-84 RR-18 SpO2- 94% on RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI 
Neck: supple 
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Abdomen: soft, nontender, distended, normal bowel sounds
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, or
edema. Clean/dry/intact dressing in left inguinal region. 
Skin: Healing ulcer on the right foot
Neuro: moves all four extremities with purpose, decreased
sensation in bilateral feet

 
Pertinent Results:
___ 09:00PM   GLUCOSE-150* UREA N-118* CREAT-16.8* 
SODIUM-135 POTASSIUM-6.4* CHLORIDE-95* TOTAL CO2-18* ANION 
GAP-22*

___ 09:00PM   WBC-9.8 RBC-3.39* HGB-9.7* HCT-31.7* MCV-94 
MCH-28.6 MCHC-30.6* RDW-19.8* RDWSD-66.3*
___ 03:05PM   PLT COUNT-284

___ 01:22PM   K+-7.7*

___ 03:05PM   CALCIUM-8.8 PHOSPHATE-10.7* MAGNESIUM-1.8

___ 03:08PM   LACTATE-1.1 K+-8.2*

___ 11:51PM   HBsAg-NEG HBs Ab-NEG HBc Ab-NEG
___ 11:51PM   HCV Ab-NEG
 
Brief Hospital Course:
___ year old gentleman with history of ESRD ___ DM and HTN on 
___ HD, HFpEF, who initially presented with generalized 
weakness, palpitations. He was found to have hyperkalemia and a 
clotted fistula, requiring temporary HD line placement in MICU 
and urgent dialysis.

ACTIVE ISSUES:
# ESRD, Hyperkalemia
Patient presented with nausea, lethargy, weakness, tremors, and 
palpitations in the setting of an elevated K before dialysis and 
then not receiving dialysis due to clotted fistula. K+ reached 
8.2
and he received urgent dialysis ___ and transferred to ICU. K+ 
improved to 5.4 and he was transferred to floor. Continued HD. 
He had a thrombectomy on ___ which was successful, he also 
had a fistuologram on ___ which showed normal functioning 
of his fistula. Pt has TuThSa HD schedule at home. His potassium 
level was frequently elevated throughout the admission, 
requiring additional dialysis sessions. We considered other 
etiologies for hyperkalemia, including increased p.o. intake of 
potassium as well as increased intestinal absorption of 
potassium. The patient denies a high potassium diet. He did 
report taking Imodium frequently for chronic diarrhea, and it is 
possible that this may have increased his intestinal absorption 
of potassium. This persistently elevated potassium required 
additional sessions of dialysis, including on ___. We would 
like him to have dialysis tomorrow as well.

# Clotted HD fistula
Patient underwent fistulogram as above and had thrombectomy 
which was successful. This was likely caused by the anatomical 
issues of a fistula. He will need to be seen by ___ as a 
follow-up to determine the fistula. Please call interventional 
radiology at ___ to schedule an appointment to be seen 
in the office to evaluate your fistula.

CHRONIC ISSUES:
# Diabetes
- Continue Lantus 28u AM + HISS

# Hypertension / HFpEF
- Continue home lisinopril

# Right foot ulcer
- wound care

# Peripheral vascular disease
- ASA

TRANSITIONAL ISSUES:
[ ] He will need follow-up with with interventional radiology
[ ] Continue ___ dialysis schedule
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H SOB, wheeze 
2. Aquaphor Ointment 1 Appl TP DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Calcium Acetate 1334 mg PO TID W/MEALS 
6. Docusate Sodium 100 mg PO BID 
7. Fluticasone Propionate NASAL 1 SPRY NU BID rhinorrhea 
8. Omeprazole 20 mg PO DAILY 
9. Ondansetron 4 mg PO BID PRN nausea 
10. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
11. Vitamin D 1000 UNIT PO DAILY 
12. Lisinopril 5 mg PO DAILY 
13. Ibuprofen 800 mg PO BID PRN Pain - Moderate 
14. Glargine 28 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Glargine 28 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
2.  Albuterol Inhaler ___ PUFF IH Q4H SOB, wheeze  
3.  Aquaphor Ointment 1 Appl TP DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Calcium Acetate 1334 mg PO TID W/MEALS  
7.  Docusate Sodium 100 mg PO BID  
8.  Fluticasone Propionate NASAL 1 SPRY NU BID rhinorrhea  
9.  Ibuprofen 800 mg PO BID PRN Pain - Moderate  
10.  Lisinopril 5 mg PO DAILY  
11.  Omeprazole 20 mg PO DAILY  
12.  Ondansetron 4 mg PO BID PRN nausea  
13.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate  
14.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Hyperkalemia
ESRD

Chronic Issues:
Diabetes
Right foot ulcer
HFpEF
Hypertension
Peripheral vascular disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
- You were admitted for very high potassium levels and a clotted 
fistula.

WHAT HAPPENED IN THE HOSPITAL?
- You received urgent hemodialysis to correct your electrolytes.
- You underwent a thrombectomy of your fistula to remove a clot 
obstructing flow of your fistula.  You underwent a fistulogram 
which showed that you had normal functioning of the fistula.
_x0096_ Your potassium level was frequently elevated throughout the 
hospital requiring additional dialysis to lower it

WHAT SHOULD YOU DO AT HOME?
- Take your medications as prescribed.
- Ensure you make it to all of your scheduled hemodialysis 
sessions.
- Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs
- Please do not take Imodium if possible; we wonder if your 
elevated potassium level may be related to this medication (+/- 
your malfunctioning fistula)
_x0096_ Be sure to attend your dialysis session tomorrow morning 
___

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

 
Followup Instructions:
___